US05108485
Preparation of 1,3-Dimethyl-1H-indazole 4,5-dicarboxylic acid
A mixture of ethyl 4-cyano-1,3-dimethyl-1H-indazole-5-carboxylate (7.03 g, 28.7 mmol), concentrated hydrobromic acid (35 mL) and acetic acid (35 mL) is stirred for 2 hours at reflux temperature, cooled, diluted with water (200 mL) and stirred for 2 hours. Filtration of the reaction mixture affords the title product as a pale blue solid (6.57 g, 97.8%), mp 228.5°-232.5° C.

reactant | ethyl 4-cyano-1,3-dimethyl-1H-indazole-5-carboxylate | 28.7 mmol, 7.03 g | C(#N)C1=C2C(=NN(C2=CC=C1C(=O)OCC)C)C | C13H13N3O2
reactant | hydrobromic acid | 35 mL | Br | BrH
reactant | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
reactant | water | 200 mL | O | H2O
product | 1,3-Dimethyl-1H-indazole 4,5-dicarboxylic acid | 6.57 g, 97.8% | CN1N=C(C2=C(C(=CC=C12)C(=O)O)C(=O)O)C | C11H10N2O4
